US06586441B2
2-Amino-4-(4-dimethylamino-benzylamino)-6-furan-2-yl-pyrimidine-5-carbonitrile
From 2-amino-4-furan-2-yl-6-methanesulfinyl-pyrimidine-5-carbonitrile, 4-dimethylaminobenzylamine dihydrochloride and DBU in DME. ES-MS m/e (%): 335 (M+H+, 100).

reactant | 2-amino-4-furan-2-yl-6-methanesulfinyl-pyrimidine-5-carbonitrile | NC1=NC(=C(C(=N1)C=1OC=CC1)C#N)S(=O)C | C10H8N4O2S
reactant | 4-dimethylaminobenzylamine dihydrochloride | Cl.Cl.CN(C1=CC=C(CN)C=C1)C
reactant | DBU | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | DME | COCCOC | C4H10O2
product | 2-Amino-4-(4-dimethylamino-benzylamino)-6-furan-2-yl-pyrimidine-5-carbonitrile | NC1=NC(=C(C(=N1)NCC1=CC=C(C=C1)N(C)C)C#N)C=1OC=CC1 | C18H18N6O
